US08614195B2
To a stirred suspension of sodium hydride (60% in mineral oil, 2.2 g, 54.64 mmol) in DMF (40 ml), was added a solution of (2S,3R,4R,5S,6R)-2-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-6-trityloxymethyl-tetrahydro-pyran-3,4,5-triol (8.0 g, 12.14 mmol) in DMF (10 ml) at 0° C. After stirring for 4 h at room temperature, reaction mixture was cooled to 0° C. and added TBAI (0.45 g, 1.21 mmol) followed by benzyl bromide (5.1 ml, 42.50 mmol). Then it was allowed to attain room temperature and stirred for overnight. Reaction mixture was poured into ice cold water and extracted with ethyl acetate (2×80 ml). Combined organic layers were washed with water (100 ml), brine (100 ml), dried over sodium sulfate, concentrated and purified by silica gel column chromatography to give 8.5 g of 6-[2-ethyl-5-(2S,3S,4R,5R,6R)-3,4,5-tris-benzyloxy-6-trityloxymethyl-tetrahydro-pyran-2-yl)-benzyl]-2,3-dihydro-benzo[1,4]dioxine as a colorless oil.

reactant | sodium hydride | 54.64 mmol, 2.2 g | [H-].[Na+]
reactant | (2S,3R,4R,5S,6R)-2-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-6-trityloxymethyl-tetrahydro-pyran-3,4,5-triol | 12.14 mmol, 8.0 g | O1CCOC2=C1C=CC(=C2)CC=2C=C(C=CC2CC)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H42O7
reactant | benzyl bromide | 42.50 mmol, 5.1 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | TBAI | 1.21 mmol, 0.45 g | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
product | 2,3-dihydro-benzo[1,4]dioxine | O1CCOC2=C1C=CC=C2 | C8H8O2
